US07842688B2
a) Benzyl 4-(4-methoxyphenyl)-3-[4-(3-methoxypropyl)-2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.500 g of benzyl 3-hydroxy-4-(4-methoxyphenyl)piperidine-1-carboxylate and 0.505 g of 6-chloromethyl-4-(3-methoxypropyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as an orange oil. Rf=0.17 (1:1 EtOAc-heptane); Rt=5.51.

reactant | benzyl 3-hydroxy-4-(4-methoxyphenyl)piperidine-1-carboxylate | 0.500 g | OC1CN(CCC1C1=CC=C(C=C1)OC)C(=O)OCC1=CC=CC=C1 | C20H23NO4
reactant | 6-chloromethyl-4-(3-methoxypropyl)-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 0.505 g | ClCC=1C=CC2=C(N(C(C(O2)(C)C)=O)CCCOC)C1 | C15H20ClNO3
product | Benzyl 4-(4-methoxyphenyl)-3-[4-(3-methoxypropyl)-2,2-dimethyl-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(C(O2)(C)C)=O)CCCOC)C1 | C35H42N2O7
